US06127541
2-Isopropylaminobenzonitrile
According to a similar manner to that in Reference Example 3, the title compound was synthesized from 2-fluorobenzonitrile and isopropylamine.

reactant | 2-fluorobenzonitrile | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 2-Isopropylaminobenzonitrile | C(C)(C)NC1=C(C#N)C=CC=C1 | C10H12N2
